US07807676B2
Compounds 1-(7-bromo-4-methoxy-1H-pyrrolo[2,3-c]pyridin-3-yl)-2-(4-(1-(pyridin-2-yl)-1H-tetrazol-5-yl)piperazin-1-yl)ethane-1,2-dione (100 mg, 0.195 mmol), 3,5-dimethyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)isoxazole, 1,1′-Bis(diphenylphosphino)ferrocene palladium (II) chloride complex with dichloromethane (16.06 mg, 0.020 mmol) and Cesium carbonate (127 mg, 0.390 mmol) were combined in Dioxane (2 mL) and Water (0.5 mL). The mixture was heated at 115° C. for 2 hours. After cooling to rt, the mixture was diluted with 10 ml of MeOH and filtered. The filtration was concentrated and purified by HPLC to give 1-(7-(3,5-dimethylisoxazol-4-yl)-4-methoxy-1H-pyrrolo[2,3-c]pyridin-3-yl)-2-(4-(1-(pyridin-2-yl)-1H-tetrazol-5-yl)piperazin-1-yl)ethane-1,2-dione (56 mg, 0.106 mmol, 54.3% yield). LCMS: m/e 529.3 (M+H)+, ret time 1.03 min. 1H NMR (500 MHz, MeOD) δ ppm 8.65 (s, 1H) 8.62-8.64 (m, J=4.88 Hz, 1H) 8.23 (s, 1H) 8.08-8.13 (m, 1H) 7.84 (d, J=8.24 Hz, 1H) 7.55-7.60 (m, J=6.71, 4.88 Hz, 1H) 4.15 (s, 3H) 3.87-3.90 (m, 2H) 3.66-3.69 (m, 2H) 3.44-3.54 (m, 4H) 2.41 (s, 3H) 2.22 (s, 3H).

reactant | 1-(7-bromo-4-methoxy-1H-pyrrolo[2,3-c]pyridin-3-yl)-2-(4-(1-(pyridin-2-yl)-1H-tetrazol-5-yl)piperazin-1-yl)ethane-1,2-dione | 0.195 mmol, 100 mg | BrC=1N=CC(=C2C1NC=C2C(C(=O)N2CCN(CC2)C2=NN=NN2C2=NC=CC=C2)=O)OC | C20H18BrN9O3
reactant | 3,5-dimethyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)isoxazole | CC1=NOC(=C1B1OC(C(O1)(C)C)(C)C)C | C11H18BNO3
reactant | dichloromethane | 0.020 mmol, 16.06 mg | ClCCl | CH2Cl2
reactant | Cesium carbonate | 0.390 mmol, 127 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | Dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | Water | 0.5 mL | O | H2O
solvent | MeOH | 10 ml | CO | CH4O
product | 1-(7-(3,5-dimethylisoxazol-4-yl)-4-methoxy-1H-pyrrolo[2,3-c]pyridin-3-yl)-2-(4-(1-(pyridin-2-yl)-1H-tetrazol-5-yl)piperazin-1-yl)ethane-1,2-dione | 0.106 mmol, 56 mg, 54.3% yield | CC1=NOC(=C1C=1N=CC(=C2C1NC=C2C(C(=O)N2CCN(CC2)C2=NN=NN2C2=NC=CC=C2)=O)OC)C | C25H24N10O4
